US04169141
B. t-Butoxycarbonyl-glycyl-glycine-methyl Ester
Prepare a solution of 1.98 g. of glycine methyl ester hydrochloride in dimethylformamide containing 8 ml. of methanol and 1.42 g. of triethylamine. Cool and stir the solution while adding 5.0 g. of t-butoxycarbonylglycine-2,4,5-trichlorophenyl ester in 25 ml. of dimethylformamide. Stir the reaction mixture overnight, filter and evaporate the filtrate to dryness under reduced pressure. Chromatograph the residue on 150 g. of silica gel and collect the desired product which is eluted by an ethyl acetate:chloroform (1:9) mixture. Evaporate the eluate to dryness and crystallize from hexane to obtain the title product (m.p. 132°-135° C.).

reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
reactant | methanol | CO | CH4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | t-butoxycarbonylglycine-2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC(CNC(=O)OC(C)(C)C)=O | C13H14Cl3NO4
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | t-Butoxycarbonyl-glycyl-glycine-methyl Ester | COC(CNC(CNC(=O)OC(C)(C)C)=O)=O | C10H18N2O5
